US06784137B2
A solution of methyl 4-acetamido-3,6-dichloropyridine-2-carboxylate (0.988 g, 4.0 mmol), ethoxyvinyltributyltin (2.70 mL, 8.0 mmol) and cesium fluoride (1.34 g, 8.8 mmol) in dioxane (20 mL) was sparged with nitrogen for 15 minutes. Dichlorobis(triphenylphosphine)palladium(II) (0.140 g, 0.2 mmol) was then added and the mixture was heated at 100° C. for 5 hours. After cooling, ether was added and the reaction mixture filtered through a silica plug. The solvents were removed and the crude product was purified by chromatography (ethyl acetate:hexane (1:2)) to give methyl 4-acetamido-3-chloro-6-(1-ethoxyvinyl)pryidine-2-carboxylate (0.780 g, 2.6 mmol). 1H NMR (CDCl3): δ 8.85 (s, 1H), 7.90 (br.s, 1H), 5.47 (d, J=2.0 Hz, 1H), 4.44 (d, J=2.0 Hz, 1H), 4.01 (s, 3H), 3.98 (q, J=7.0 Hz, 2H), 2.32 (s, 3H), 1.46 (t, J=7.0 Hz, 3H).

reactant | methyl 4-acetamido-3,6-dichloropyridine-2-carboxylate | 4.0 mmol, 0.988 g | C(C)(=O)NC1=C(C(=NC(=C1)Cl)C(=O)OC)Cl | C9H8Cl2N2O3
reactant | ethoxyvinyltributyltin | 8.0 mmol, 2.70 mL | C(C)OC=C[Sn](CCCC)(CCCC)CCCC
reactant | cesium fluoride | 8.8 mmol, 1.34 g | [F-].[Cs+]
reactant | ether | CCOCC | C4H10O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.2 mmol, 0.140 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 4-acetamido-3-chloro-6-(1-ethoxyvinyl)pryidine-2-carboxylate | 2.6 mmol, 0.780 g | C(C)(=O)NC1=C(C(=NC(=C1)C(=C)OCC)C(=O)OC)Cl | C13H15ClN2O4
